US07241792B2
To a solution of (R,Z)-oct-5-ene-1,2-diol (8.50 g, 58.9 mmol) in THF (230 mL) at 0° C. was added NaH (60% dispersion in mineral oil, 7.06 g, 177 mmol) (7.06 g as dispersion). The mixture was warmed to ambient temperature and stirred for 40 min. The reaction was cooled to 0° C. and triisopropylbenzenesulfonyl chloride (20.7 g, 61.8 mmol) was added. The reaction was warmed to room temp, stirred for 1 h, quenched with H2O and extracted with Et2O. The organics were washed with brine, dried over MgSO4, filtered, and concentrated. Purification by silica gel chromatography (2% Et2O in pentane gradient to 8% Et2O in pentane) gave (R,Z)-2-(hex-3-enyl)oxirane. It was determined that slight racemization occurred at this step (98% ee to 84% ee). In order to ensure optical purity the enantioenriched product was further resolved using Jacobsen's hydrolytic kinetic resolution (HKR, Step E). 1H NMR (400 MHz, CDCl3): δ 5.41 (1H, m), 5.35 (1H, m), 2.93 (1H, m), 2.75 (1H, dd, J=5.2, 4.4 Hz), 2.49 (1H, dd, J=5,2, 2.8 Hz), 2.20 (2H, q, J=6.8 Hz), 2.06 (2H, quin, 7.6 Hz), 1.59 (2H, m), 0.97 (3H, t, J=7.6 Hz).

reactant | (R,Z)-oct-5-ene-1,2-diol | 58.9 mmol, 8.50 g | C([C@@H](CC\C=C/CC)O)O | C8H16O2
reactant | NaH | 177 mmol, 7.06 g | [H-].[Na+]
reactant | triisopropylbenzenesulfonyl chloride | 61.8 mmol, 20.7 g | C(C)(C)C1=C(C(=C(C=C1)S(=O)(=O)Cl)C(C)C)C(C)C | C15H23ClO2S
solvent | THF | 230 mL | C1CCOC1 | C4H8O
product | (R,Z)-2-(hex-3-enyl)oxirane | C(C\C=C/CC)[C@H]1OC1 | C8H14O
